US06211215B1
In substantially the same manner as in Working Example 125, 2-(2-thienyl)-4-oxazolylmethanol was allowed to react with 2-chloro-5-[3-(1-imidazolyl)propyl]pyridine to give 5-[3-(1-imidazolyl)propyl]-2-[2-(2-thienyl)-4-oxazolylmethoxy]pyridine. The yield was 67%. Recrystallization from ethyl acetate-hexane gave brown prisms, mp 86-87° C.

reactant | 2-(2-thienyl)-4-oxazolylmethanol | S1C(=CC=C1)C=1OC=C(N1)CO | C8H7NO2S
reactant | 2-chloro-5-[3-(1-imidazolyl)propyl]pyridine | ClC1=NC=C(C=C1)CCCN1C=NC=C1 | C11H12ClN3
product | 5-[3-(1-imidazolyl)propyl]-2-[2-(2-thienyl)-4-oxazolylmethoxy]pyridine | yield was 67% | N1(C=NC=C1)CCCC=1C=CC(=NC1)OCC=1N=C(OC1)C=1SC=CC1 | C19H18N4O2S
